US04871751
Synthesis of 1-2(2,4-dichloro-3-methylphenyl-3-methyl-2,6-diphenyl-4(1H)-pyridinone
In 170 ml of chlorobenzene were dissolved 3.4 g (0.012 mole) of 2-methyl-1,5-diphenyl-1,3,5-pentanetrione and 10.6 g (0.06 mole) of 2,4-dichloro-3-methylaniline, followed by further addition of 4.1 g (0.022 mole) of para-toluenesulfonic acid and 35.0 g of Molecular Sieves 5A to the solution. After heating the reaction mixture under reflux for 2 hours, solid matter was removed from the reaction mixture, followed by an addition of 200 ml of chloroform. The resultant mixture was washed first with 100 ml of 10% hydrochloric acid and then with 100 ml of a 10% aqueous solution of sodium hydroxide. The mixture was washed further with water and was then dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was purified by chromatography on a silica gel column (eluent: ethyl acetate). Upon recrystallization of the resultant crystals from a 2:1 mixed solvent of acetone and hexane, 0.7 g of 1-(2,4-dichloro-3-methylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 237°-238° C. was obtained.

reactant | 2-methyl-1,5-diphenyl-1,3,5-pentanetrione | 0.012 mole, 3.4 g | CC(C(=O)C1=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C18H16O3
reactant | 2,4-dichloro-3-methylaniline | 0.06 mole, 10.6 g | ClC1=C(N)C=CC(=C1C)Cl | C7H7Cl2N
reactant | para-toluenesulfonic acid | 0.022 mole, 4.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chlorobenzene | 170 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2,4-dichloro-3-methylphenyl-3-methyl-2,6-diphenyl-4(1H)-pyridinone | ClC1=C(C=CC(=C1C)Cl)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C25H19Cl2NO
